US05506235
4-(Cyclohexylamino)quinolin-6-ol Hydrobromide Hydrate.
A solution of 245 mg (0.94 mmol) of 4-chloroquinolin-6-ol hydrobromide and 1.0 mL of cyclohexylamine was heated under reflux overnight. Excess volatile components of the reaction mixture were evaporated under reduced pressure. The residue was slurried with isopropyl ether and then filtered. The solids were recrystallized from hot acetic acid to afford 129 mg (40%) of the title compound: m.p. 280°-285° C. (dec.).

reactant | 4-chloroquinolin-6-ol hydrobromide | 0.94 mmol, 245 mg | Br.ClC1=CC=NC2=CC=C(C=C12)O
reactant | cyclohexylamine | 1.0 mL | C1(CCCCC1)N | C6H13N
product | 4-(Cyclohexylamino)quinolin-6-ol Hydrobromide Hydrate | 129 mg, 40% | O.Br.C1(CCCCC1)NC1=CC=NC2=CC=C(C=C12)O | InChI=1S/C15H18N2O.BrH.H2O/c18-12-6-7-14-13(10-12)15(8-9-16-14)17-11-4-2-1-3-5-11;;/h6-11,18H,1-5H2,(H,16,17);1H;1H2
